US09255093B2
To the solution of 5-fluoro-6-methylbenzofuran-2-carbonitrile (1.44 g, 8.22 mmol) in 82 mL of CCl4 was added NBS (1.536 g, 8.63 mmol) and AlBN (0.067 g, 0.411 mmol). After the reaction mixture was refluxed overnight, the solvent was removed. The residue was purified by silica gel flash chromatography (100% heptane-7% ethyl acetate/heptane) to give 6-(bromomethyl)-5-fluorobenzofuran-2-carbonitrile (1.6 g). 1H NMR (400 MHz, DMSO-d6) δ 4.82 (d, J=1.1 Hz, 2H), 7.75 (d, J=9.5 Hz, 1H), 8.02 (d, J=5.9 Hz, 1H), 8.10 (d, J=0.86 Hz, 1H).

reactant | 5-fluoro-6-methylbenzofuran-2-carbonitrile | 8.22 mmol, 1.44 g | FC=1C(=CC2=C(C=C(O2)C#N)C1)C | C10H6FNO
reactant | NBS | 8.63 mmol, 1.536 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 82 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(bromomethyl)-5-fluorobenzofuran-2-carbonitrile | 1.6 g | BrCC1=CC2=C(C=C(O2)C#N)C=C1F | C10H5BrFNO
